US07947675B2
To a solution of 3-bromo-N-(3,4-dichlorophenyl)-2-piperid-1-yl-5-trifluoromethylbenzamide, Example 3 (620 mg; 1 eq.) in DMF (10 ml, degassed for 1 hour with nitrogen), are added CuCN (200 mg; 1.8 eq.) and Pd(PPh3)4 (58 mg; 0.04 eq.). After refluxing for 3 hours under a nitrogen atmosphere, the reaction medium is cooled and poured into 20 ml of water. The product is extracted with ethyl acetate. After washing with water and then with saturated NaCl solution, the organic phase is dried over Na2SO4 and concentrated under vacuum. The oil obtained is purified by chromatography on silica (eluent: 9/1 heptane/EtOAc). 310 mg of 3-cyano-N-(3,4-dichlorophenyl)-2-piperid-1-yl-5-trifluoromethylbenzamide are obtained (white solid: m.p.=175° C.)

reactant | 3-bromo-N-(3,4-dichlorophenyl)-2-piperid-1-yl-5-trifluoromethylbenzamide | BrC=1C(=C(C(=O)NC2=CC(=C(C=C2)Cl)Cl)C=C(C1)C(F)(F)F)N1CCCCC1 | C19H16BrCl2F3N2O
reactant | CuCN | 200 mg, 1.8 eq. | C(#N)[Cu]
reactant | water | 20 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 58 mg, 0.04 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-cyano-N-(3,4-dichlorophenyl)-2-piperid-1-yl-5-trifluoromethylbenzamide | 310 mg | C(#N)C=1C(=C(C(=O)NC2=CC(=C(C=C2)Cl)Cl)C=C(C1)C(F)(F)F)N1CCCCC1 | C20H16Cl2F3N3O
